US08044090B2
N-(2-(6,7-Difluoro-1H-indol-3-yl)-ethyl)-3-(pyridin-4-yloxy)benzylamine
Combine 6,7-difluoro tryptamine (0.285 g, 1.450 mmol), 3-pyridin-4-yloxybenzaldehyde (0.303 g, 1.52 mmol, 1.05 eq.) and molecular sieves 4A (0.30 g) and stir in methanol (12 mL). After 4 h. filter the molecular sieves and wash several times with MeOH. To this MeOH solution, add portionwise NaH4 (55.0 mg, 1.45 mmol), and stir at room temperature for 1 h. Remove MeOH in vacuo, dilute the residue with CH2Cl2/water, extract with CH2Cl2, combine organic layers, dry over Na2SO4 and concentrate in vacuo. Purification by flash chromatography on silica gel (CH2Cl2/MeOH) to give the free base which is converted to the hydrochloride salt: 1H NMR (300 MHz, DMSO-d6) 3.13 (s, 4H), 4.20 (s, 2H), 6.85-7.55 (m, 10H), 8.47-8.50 (m, 1H), 9.58 (br, 1H), 11.57 (br, 1H): MS (electrospray) m/e: 380.2 (M+1−HCl), 378.3 (M−1−HCl).

reactant | 6,7-difluoro tryptamine | 1.450 mmol, 0.285 g | FC=1C(=C2NC=C(CCN)C2=CC1)F | C10H10F2N2
reactant | 3-pyridin-4-yloxybenzaldehyde | 1.52 mmol, 0.303 g, 1.05 eq. | N1=CC=C(C=C1)OC=1C=C(C=O)C=CC1 | C12H9NO2
reactant | HCl | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | CH2Cl2 water | C(Cl)Cl.O
product | N-(2-(6,7-Difluoro-1H-indol-3-yl)-ethyl)-3-(pyridin-4-yloxy)benzylamine | FC1=CC=C2C(=CNC2=C1F)CCNCC1=CC(=CC=C1)OC1=CC=NC=C1 | C22H19F2N3O
